US05502054
Under a nitrogen atmosphere, a stirred solution of 101.0 grams (0.23 mole) of bromomethyl triphenylphosphonium bromide in 400 mL of tetrahydrofuran was cooled in a dry ice-acetone bath, and 26.0 grams (0.23 mole) of potassium tert.-butoxide was added portionwise while maintaining the reaction mixture temperature between -70° and -75° C. Upon completion of addition, the reaction mixture was stirred at -75° C. for about 90 minutes. After this time a solution of 50.0 grams (0.23 mole) of 2-methyl-2-(4-trifluoromethylphenyl)propanaldehyde (prepared in Step C of this Example) in 100 mL of tetrahydrofuran was added dropwise while maintaining the reaction mixture temperature below -65° C. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature as it stirred for about 18 hours. The reaction mixture was then poured into 500 mL of water and extracted with two 300 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was subjected to column chromatography on silica gel using petroleum ether as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 40.9 grams of cis/trans-1-bromo-3-methyl-3-(4-trifluoromethylphenyl)-1-butene. The NMR spectrum was consistent with the proposed structure.

reactant | bromomethyl triphenylphosphonium bromide | 0.23 mole, 101.0 grams | [Br-].BrC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert.-butoxide | 0.23 mole, 26.0 grams | CC(C)([O-])C.[K+]
reactant | 2-methyl-2-(4-trifluoromethylphenyl)propanaldehyde | 0.23 mole, 50.0 grams | CC(C=O)(C)C1=CC=C(C=C1)C(F)(F)F | C11H11F3O
reactant | water | 500 mL | O | H2O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | trans-1-bromo-3-methyl-3-(4-trifluoromethylphenyl)-1-butene | Br\C=C\C(C)(C1=CC=C(C=C1)C(F)(F)F)C | C12H12BrF3
